US06492421B1
Synthesis of N-(Toluene4-sulfonyl)-L-prolyl-4-[2-(carboxy)phenoxy]-L-phenylalanine Methyl Ester
N-(Toluene-4-sulfonyl)-L-prolyl-L-tyrosine methyl ester (2.14 g, 5.16 mmol) was added to a suspension of sodium hydride (60% in oil, 1.1 eq, 228 mg) in xylenes (50 mL) at 0° C. The reaction mixture was stirred for 5 minutes and cuprous bromideodimethyl sulfide complex (1.4 eq, 1.48 g) was added. The reaction mixture was stirred at 23° C. for 0.5 hours. 2-Iodo sodium benzoate (1.5 eq, 8.06 mmol) was added and the reaction mixture was refluxed for 12 hours. EtOAc (100 mL) was added, and the organic layer washed with NH4Cl, 10% HCl, and brine, dried over MgSO4. The crude material was eluted on column chromatography (silica gel), with CHCl3:MeOH 9:1, and the title compound was isolated as an oil.

reactant | N-(Toluene-4-sulfonyl)-L-prolyl-L-tyrosine methyl ester | 5.16 mmol, 2.14 g | COC([C@@H](NC([C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1=CC=C(C=C1)O)=O | C22H26N2O6S
reactant | sodium hydride | 228 mg, 1.1 eq | [H-].[Na+]
reactant | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | N-(Toluene4-sulfonyl)-L-prolyl-4-[2-(carboxy)phenoxy]-L-phenylalanine Methyl Ester | COC([C@@H](NC([C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C)=O)CC1=CC=C(C=C1)OC1=C(C=CC=C1)C(=O)O)=O | C29H30N2O8S
